US07396943B2
Preparation of 4-[5-(Phenethylamino-methyl)-thiophen-2-yloxy]-benzonitrile
Combine 4-(5-formyl-thiophen-2-yloxy)-benzonitrile (200 mg, 0.87 mmol), (MeO)3CH (1.2 mL), phenethyl amine (0.142 mL, 130 mol %) and methanol (1.7 mL). Stir the resulting mixture for 3 hours, and then add sodium borohydride in portions. Stir for few hours. Then, concentrate to remove the methanol. Partition the resulting residue between H2O (5 mL) and CH2Cl2 (7 ml). Dry the organic layer over sodium sulfate, filter and concentrate. Purify the product through flash chromatography [CH2Cl2/Ammonia (2.0 M in methanol) 20/1] to provide the title compound (139 mg, 48%).

reactant | 4-(5-formyl-thiophen-2-yloxy)-benzonitrile | 0.87 mmol, 200 mg | C(=O)C1=CC=C(S1)OC1=CC=C(C#N)C=C1 | C12H7NO2S
reactant | (MeO)3CH | 1.2 mL | C(OC)(OC)OC | C4H10O3
reactant | phenethyl amine | 0.142 mL | C(CC1=CC=CC=C1)N | C8H11N
reactant | sodium borohydride | [BH4-].[Na+]
solvent | methanol | 1.7 mL | CO | CH4O
product | 4-[5-(Phenethylamino-methyl)-thiophen-2-yloxy]-benzonitrile | 139 mg, 48% | C(CC1=CC=CC=C1)NCC1=CC=C(S1)OC1=CC=C(C#N)C=C1 | C20H18N2OS
